US07238725B2
Step 3: 8-Chloro-9-cyclohexylmethyl-1-methoxy-9H-4-carbazole carboxylic acid
To a solution of methyl-8-chloro-9-cyclohexylmethyl-1-methoxy-9H-4-carbazole carboxylate (95 mg 0.2464 mmoles) in 5 mL methanol, 2 mL of 10% sodium hydroxide solution was added and refluxed for 3 hrs. Methanol from the reaction mixture was evaporated under reduced pressure, diluted with ethyl acetate (50 mL) and washed with 10% sodium hydroxide solution (2×20 mL), this aqueous layer was acidified with 1N HCl and extracted with ethyl acetate (2×25 mL), dried over sodium sulfate and concentrated to give 90 mg of the title compound.

reactant | methyl-8-chloro-9-cyclohexylmethyl-1-methoxy-9H-4-carbazole carboxylate | 0.2464 mmoles, 95 mg | COC(=O)C1=CC=C(C=2N(C3=C(C=CC=C3C12)Cl)CC1CCCCC1)OC | C22H24ClNO3
solvent | methanol | 5 mL | CO | CH4O
solvent | sodium hydroxide | 2 mL | [OH-].[Na+]
product | 8-Chloro-9-cyclohexylmethyl-1-methoxy-9H-4-carbazole carboxylic acid | 90 mg | ClC=1C=CC=C2C=3C(=CC=C(C3N(C12)CC1CCCCC1)OC)C(=O)O | C21H22ClNO3
